*$
* LMV2011
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LMV2011
* Date: 20JUL2022
* EVM Order Number: NA
* EVM Users Guide:  NA
* Datasheet: SNOSA32C -AUGUST 2003-REVISED MARCH 2013
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice Symbol.
* 2. Added .ENDS name as LMV2011.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
*****************************************************************************
* PINOUT IS FOR SOT23
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   5  2  1
.SUBCKT LMV2011 3 4 5 2 1
*****************************************************************************
* BEGIN NOTES
* IF YOU ARE DOING TIME DOMAIN ANALYSIS AND ARE
* NOT INTERESTED IN THE EFFECTS OF THE CHOPPER
* THEN COMMENT OUT THE NEXT FOUR LINES AS SHOWN
* IMMEDIATELY BELOW FOR FASTER EXECUTION
* NOTE ALSO THAT WHEN THESE GENERATORS ARE TURNED ON
* THE MODEL SHOULD BE ALLOWED TO RUN AND SETTLE FOR
* AT LEAST 40 MICROSECONDS BEFORE ANY DATA IS TAKEN
* BEGIN FOUR CHOPPER TIME DOMAIN NOISE LINES
V123 69 0 0 PULSE -10E-6 10E-6 0 18E-6 18E-6 2E-6 40E-6
V124 70 0 0 PULSE -150E-3 150E-3 0 1E-6 1E-6 18E-6 20E-6
V125 71 0 0 PULSE -150E-3 150E-3 10E-6 1E-6 1E-6 18E-6 20E-6
I126 4 28 0 SIN 0 300E-12 25E3
* END FOUR CHOPPER TIME DOMAIN NOISE LINES
* BEGIN EXAMPLE AS COMMENTED
*V123 69 0 0 PULSE -10E-6 10E-6 0 18E-6 18E-6 2E-6 40E-6
*V124 70 0 0 PULSE -150E-3 150E-3 0 1E-6 1E-6 18E-6 20E-6
*V125 71 0 0 PULSE -150E-3 150E-3 10E-6 1E-6 1E-6 18E-6 20E-6
*I126 4 28 0 SIN 0 300E-12 25E3
* END EXAMPLE AS COMMENTED
* END NOTES
Q23 6 7 8 QLN
R227 9 10 1
R228 11 10 1
R229 7 12 1E3
R230 13 14 1E3
R231 15 5 15
R232 2 16 15
R234 17 18 150
R235 19 20 15
R236 8 21 15
D31 22 5 DD
D32 2 22 DD
D33 23 0 DIN
D34 24 0 DIN
I32 0 23 0.1E-3
I33 0 24 0.1E-3
E73 8 0 2 0 1
E74 20 0 5 0 1
D35 25 0 DVN
D36 26 0 DVN
I34 0 25 0.1E-3
I35 0 26 0.1E-3
E75 27 4 25 26 5.7E-6
G25 28 4 23 24 5E-7
R237 2 5 31.3E3
E76 29 0 20 0 1
E77 30 0 8 0 1
E78 31 0 32 0 1
R239 29 33 1E4
R240 30 34 1E5
R241 31 35 1E5
R242 0 33 1
R243 0 34 10
R244 0 35 10
E79 36 37 35 0 0.00155
R245 38 32 1E3
R246 32 39 1E3
C50 29 33 0.2E-12
C51 30 34 0.2E-12
C52 31 35 50N
E80 40 36 34 0 -0.013
E81 28 40 33 0 0.013
E82 41 8 20 8 0.5
D37 17 20 DD
D38 8 17 DD
M63 42 43 16 16 NOUT L=3U W=450U
M64 44 45 15 15 POUT L=3U W=170U
M65 46 46 19 19 POUT L=3U W=170U
M66 47 48 9 9 PIN L=3U W=150U
M67 49 50 11 11 PIN L=3U W=150U
M68 51 51 21 21 NOUT L=3U W=450U
R247 52 45 100
R248 53 43 100
G26 17 41 54 41 0.2E-3
R249 41 17 8E6
C53 18 22 35E-12
R250 8 47 2E3
R251 8 49 2E3
C54 47 49 4.8E-12
C55 28 0 6E-12
C56 27 0 6E-12
C57 22 0 0.5E-12
D39 43 6 DD
D40 55 45 DD
Q24 55 14 20 QLP
V99 28 56 7E-6
M69 57 58 20 20 PIN L=6U W=500U
E83 39 0 28 0 1
E84 38 0 4 0 1
M70 58 58 20 20 PIN L=6U W=500U
V100 57 10 1
R252 22 44 70
R253 42 22 25
J9 59 28 59 JNC
J10 59 27 59 JNC
J11 27 60 27 JNC
J12 28 60 28 JNC
C58 28 61 9E-12
E85 62 41 49 47 1
R254 62 54 1E4
C59 54 41 1.8E-12
G27 63 41 17 41 -1E-3
G28 41 64 17 41 1E-3
G29 41 65 51 8 1E-3
G30 66 41 20 46 1E-3
D41 66 63 DD
D42 64 65 DD
R255 63 66 100E6
R256 65 64 100E6
R257 66 20 1E3
R258 8 65 1E3
E86 20 52 20 66 1
E87 53 8 65 8 1
R259 64 41 1E6
R260 65 41 1E6
R261 41 66 1E6
R262 41 63 1E6
R263 40 28 1E9
R264 36 40 1E9
R265 37 36 1E9
R266 4 27 1E9
R267 41 54 1E9
R268 52 20 1E9
R269 8 53 1E9
R270 32 0 1E9
I37 5 2 580E-6
L4 22 1 4E-9
R280 22 1 400
V107 20 59 0.9
V108 60 8 -0.2
R284 46 20 1E6
R285 8 51 1E6
R286 16 43 1E6
R287 15 45 1E6
R289 61 27 100
R291 50 27 36E3
R292 48 56 36E3
E98 20 13 5 15 3
E99 12 8 16 2 3
I49 27 0 120E-12
I51 28 0 120E-12
I57 46 51 220E-6
I58 58 8 360E-6
C60 28 67 0.01E-12
C61 4 68 0.01E-12
R313 37 3 1E9
R314 0 67 1E9
R315 0 68 1E9
E103 3 37 72 0 1
R317 0 69 1E9
R318 72 69 10
C62 72 0 200E-9
R319 67 70 10
R320 68 71 10
C63 67 0 20E-9
C64 68 0 20E-9
R323 41 22 100E3
R324 70 0 1E9
R325 71 0 1E9
.MODEL DVN D KF=2E-11 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS LMV2011
